US08703797B2
3-Fluoro-4-isopropyl-pyridine:
2-(3-Fluoro-pyridin-4-yl)-propan-2-ol (from the previous step, 6.40 g, 41.3 mmol) was dissolved in 50 mL of 57% HI aqueous solution. Red phosphorus (4.48 g, 144.0 mmol) was added and the mixture was stirred at 140° C. for 5 hours. The reaction mixture was cooled to room temperature, neutralized with 5N aq NaOH and extracted with ether. The combined organic layers were washed with H2O and brine, then dried over Na2SO4 and concentrated under vacuum. The title compound was obtained by distillation. Spectroscopic data: 1H-NMR (300 MHz, CDCl3): δ ppm 1.27 (d, J=7.04 Hz, 6 H), 3.25 (hept, J=7.04 Hz, 1 H), 7.21 (dd, J=5.44 Hz, 1 H), 8.33-8.36 (m, 2 H).

reactant | 2-(3-Fluoro-pyridin-4-yl)-propan-2-ol | FC=1C=NC=CC1C(C)(C)O | C8H10FNO
reactant | NaOH | 5N | [OH-].[Na+]
solvent | HI | 50 mL | I | HI
product | 3-Fluoro-4-isopropyl-pyridine | FC=1C=NC=CC1C(C)C | C8H10FN
